US05239075
B. 6-t-butyl-2-methoxynaphthalene
To a 2 L round bottomed flask was added 6-t-butyl-2-naphthol (30.67 g; 0.153 mmol) and 550 ml of 15% KOH in water. The solution was stirred while adding dimethyl sulfate (6.0 equiv.) dropwise over 30 min. After the addition was complete, the mixture was allowed to stir for 2 hrs. The solids were collected on a filter and washed with water to afford 28.97 g (88% yield) of the subtitle compound.

reactant | 6-t-butyl-2-naphthol | 0.153 mmol, 30.67 g | C(C)(C)(C)C=1C=C2C=CC(=CC2=CC1)O | C14H16O
reactant | KOH | 550 ml | [OH-].[K+]
reactant | dimethyl sulfate | 6.0 equiv. | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | 6-t-butyl-2-methoxynaphthalene | 28.97 g, 88% yield | C(C)(C)(C)C=1C=C2C=CC(=CC2=CC1)OC | C15H18O
